US07026352B1
(8E,12E)-7-Acetoxy-3,6-dihydroxy-6,10,12-trimethyl-tricosa-8,12,14-trien-11-olide (Compound 76)
Pyridinium p-toluenesulfonate (13 mg, 0.051 mmol) was added to a solution of (8E,12E)-7-acetoxy-3,6-bis(1-ethoxyethoxy)-6,10,12-trimethyltricosa-8,12,14-trien-11-olide (3.2 mg, 0.0051 mmol) in methanol (1 mL) at room temperature, followed by stirring at the same temperature for 2.5 hours. The reaction mixture was diluted with 1 mL of ethyl acetate, washed with brine, dried over anhydrous magnesium sulfate and evaporated. The resulting crude product was purified by thin layer chromatography (MERCK Silica gel 60 F254, 0.25 mm, developing solution; hexane:ethyl acetate=1:2) to give the title compound (1.2 mg, 49%) as a pale yellow oil.

reactant | Pyridinium p-toluenesulfonate | 0.051 mmol, 13 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | (8E,12E)-7-acetoxy-3,6-bis(1-ethoxyethoxy)-6,10,12-trimethyltricosa-8,12,14-trien-11-olide | 0.0051 mmol, 3.2 mg | C(C)(=O)OC\1C(CCC(CC(=O)OC(C(/C=C1)C)\C(=C\C=CCCCCCCCC)\C)OC(C)OCC)(C)OC(C)OCC | C36H62O8
solvent | methanol | 1 mL | CO | CH4O
solvent | ethyl acetate | 1 mL | C(C)(=O)OCC | C4H8O2
product | (8E,12E)-7-Acetoxy-3,6-dihydroxy-6,10,12-trimethyl-tricosa-8,12,14-trien-11-olide | 1.2 mg, 49% | C(C)(=O)OC\1C(CCC(CC(=O)OC(C(/C=C1)C)\C(=C\C=CCCCCCCCC)\C)O)(C)O | C28H46O6
